US07544688B2
A: Ethoxy-imino-acetic acid ethyl ester
Nitriloacetic acid ethyl ester (83 mmol) was dissolved in diethyl ether (water free, 25 ml) and ethanol (water free, 85 mmol) was added and the stirred mixture cooled to 40 ° C. At this temperature, HCl (gaz, dried through concentrated sulfuric acid; 18 g total consumption) was bubbled into the solution over 1 hour. The cooling bath was removed and at 0° C. the reaction mixture warmed up quickly (additional cooling required) and the product precipitated. The solid material was filtered off, washed with diethyl ether and dried.

reactant | Nitriloacetic acid ethyl ester | 83 mmol | C(C)OC(C#N)=O | C4H5NO2
reactant | ethanol | 85 mmol | C(C)O | C2H6O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | Ethoxy-imino-acetic acid ethyl ester | C(C)OC(C(=N)OCC)=O | C6H11NO3
